* spice_cccs.cir — CCCS (F-source) E2E test (Fix 3)
* Convention: F1 pos neg Vsense gain
*   ctlinst=Vsense, ctlnode="flow(br)" (default in VACASK cccs)
* Topology:
*   Vin=1V DC → Rsense=1k → Vsense(0V sense) → 0
*   F1 (gain=5) draws 5×I_sense from node 2 to 0
*   Rload=1k from node 2 to 0
* Analysis: I_sense = 1mA (flowing into Vsense+ terminal)
*   F1 flowResidual = 5 * 1mA = 5mA draining from node 2
*   KCL at 2: V(2)/1k + 5mA = 0 → V(2) = -5 V
* ngspice comparison via ngspice_compare.sh uses V(node 2).
Vin 1 0 DC 1
Rsense 1 sp 1k
Vsense sp 0 DC 0
F1 2 0 Vsense 5.0
Rload 2 0 1k
.tran 1u 10m
.end
